US05559230
A mixture of 1-{4-[2-(6-aminohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.70 g), benzoyl chloride (0.20 ml), triethylamine and dichloromethane (20 ml) is stirred at room temperature for 1 hour. The reaction mixture is washed successively with water and saturated saline solution, and dried over magnesium sulfate. The solvent is concentrated and the resulting residue is recrystallized from ethanol to give 1-{4-[2-(6-benzoylaminohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.71 g) as white powder, m.p. 178°-178.5° C.

reactant | 1-{4-[2-(6-aminohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.70 g | NCCCCCCOC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C30H35N3O3
reactant | benzoyl chloride | 0.20 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-{4-[2-(6-benzoylaminohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.71 g | C(C1=CC=CC=C1)(=O)NCCCCCCOC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C37H39N3O4
